US05055462
3,4-Dihydroxybenzamidine hydrochloride (3.5 g) was suspended in ethanol (10 ml) and treated with sodium ethoxide (prepared from sodium (0.43 g) and ethanol (13 ml)). The stirred mixture was cooled in an ice bath and treated dropwise with a solution of diethylethoxymethylene malonate (4.01 g) in ethanol (5 ml). The ice bath was removed and the mixture heated under reflux for 3 hours. During this time a yellow solid separated from solution. The reaction mixture was poured on to ice, acidified with conc. HCl (pHl) and the yellow solid filtered off. Recrystallisation from dimethylformamide gave ethyl 2-(3,4-dihydroxyphenyl)-4-oxopyrimidin-5-carboxylate (1.09 g); NMR (DMSO-d6) 1.3(t,3H); 4.25(q,2H); 6.85(d,1H); 7.6(dd,1H); 7.65(d,1H); 8.5(s,1H): MS m/e 276 (M+).

reactant | 3,4-Dihydroxybenzamidine hydrochloride | 3.5 g | Cl.OC=1C=C(C(=N)N)C=CC1O
reactant | sodium ethoxide | 13 ml, 0.43 g | [O-]CC.[Na+]
reactant | diethylethoxymethylene malonate | 4.01 g | C1(CC(=O)OC(OC(C)(CC)CC)O1)=O | C10H16O5
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 2-(3,4-dihydroxyphenyl)-4-oxopyrimidin-5-carboxylate | 1.09 g | OC=1C=C(C=CC1O)C1=NC=C(C(N1)=O)C(=O)OCC | C13H12N2O5
